US04788185
(43-5) 8-Hydroxyimidazo[1,2-a]-pyridine hydrochloride
In 80 ml of concentrated hydrochloric acid is dissolved 5 g of 8-benzyloxyimidazo[1,2-a]pyridine, and the solution is stirred at room temperature for 24 hours and then concentrated. After addition of 1-butanol, water is azeotropically removed by distillation, and the residue is crystallized from diethyl ether to give 3.8 g of the above-identified compound.

reactant | 8-benzyloxyimidazo[1,2-a]pyridine | 5 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=CN2 | C14H12N2O
reactant | hydrochloric acid | 80 ml | Cl | ClH
product | 8-Hydroxyimidazo[1,2-a]-pyridine hydrochloride | 3.8 g | Cl.OC=1C=2N(C=CC1)C=CN2 | InChI=1S/C7H6N2O.ClH/c10-6-2-1-4-9-5-3-8-7(6)9;/h1-5,10H;1H
